US04182881
B. N-[Dichlorophosphinyl]-2,4-dimethylbenzamide
A suspension of 29 g (0.19 mole) of 2,4-dimethylbenzamide, 40.5 g (0.19 mole) of phosphorus pentachloride and 300 ml of AR carbon tetrachloride was heated at 70° for 30 min. The solution was cooled to 30° and 9.2 g (0.19 mole) of 97% formic acid added dropwise. Stirring was continued for another 20 min., then the product was collected by filtration, washed with AR carbon tetrachloride and air-dried to give 30.5 g, m.p. decomposes upon standing.

reactant | 2,4-dimethylbenzamide | 0.19 mole, 29 g | CC1=C(C(=O)N)C=CC(=C1)C | C9H11NO
reactant | phosphorus pentachloride | 0.19 mole, 40.5 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | formic acid | 0.19 mole, 9.2 g | C(=O)O | CH2O2
solvent | carbon tetrachloride | C(Cl)(Cl)(Cl)Cl | CCl4
product | N-[Dichlorophosphinyl]-2,4-dimethylbenzamide | ClP(=O)(NC(C1=C(C=C(C=C1)C)C)=O)Cl | C9H10Cl2NO2P
